US04730055
The procedure of Example 1 was repeated, except there was used 0.2 grams of N-methyl-4-chlorophthalimide, 0.37 grams of 1,2-dimethoxytetramethyldisilane and 40 milligrams of (Ph3P)4Pd. The solution was heated with stirring for 15 hours resulting in a 55% yield of N-methyl-4-(dimethylmethoxysilyl)phthalimide.

reactant | N-methyl-4-chlorophthalimide | 0.2 grams | CN1C(C=2C(C1=O)=CC(=CC2)Cl)=O | C9H6ClNO2
reactant | 1,2-dimethoxytetramethyldisilane | 0.37 grams | CO[Si]([Si](OC)(C)C)(C)C | C6H18O2Si2
catalyst | (Ph3P)4Pd | 40 milligrams | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-methyl-4-(dimethylmethoxysilyl)phthalimide | 55% yield | CN1C(C=2C(C1=O)=CC(=CC2)[Si](OC)(C)C)=O | C12H15NO3Si
